US07547698B2
A solution of 4-(2-trifluoromethylbenzoyl)piperazine-1-carboxylic acid tert-butyl ester (10 mmol) in 50 mL of 1:4 mixture of trifluoroacetic acid and dichloromethane was stirred at room temperature for 10 minutes. After concentration in vacuo the residue was dissolved in dichloromethane (100 mL) and washed sequentially with 1 N NaOH (10 mL), H2O, brine, and then dried over MgSO4, filtered and concentrated in vacuo to yield piperazin-1-yl-(2-trifluoromethylphenyl)-methanone as light yellow oil. Yield 91%, 2.350 g.

reactant | 4-(2-trifluoromethylbenzoyl)piperazine-1-carboxylic acid tert-butyl ester | 10 mmol | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C17H21F3N2O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | piperazin-1-yl-(2-trifluoromethylphenyl)-methanone | Yield 91% | N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C12H13F3N2O
